US07517873B2
A mixture of 40.64 g (0.119 mole) of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2-methyl-propanoic acid methyl ester (IV-1) in 1500 mL of ethyl acetate and 14 g of 5% palladium on carbon catalyst was stirred under an atmosphere of hydrogen until hydrogen uptake was complete. The mixture was filtered through a pad of Celite, washing the filter pad with dichloromethane. Concentration under reduced pressure gave 35.2 g of (rac)-3-[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopentyl-amino]-2-methyl-propanoic acid methyl ester (V-1), which also contained a small amount of (rac-)-2-chloro-9-cyclopentyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one. This material was used directly in the next step without further purification.

reactant | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2-methyl-propanoic acid methyl ester | 0.119 mole, 40.64 g | COC(C(CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C14H19ClN4O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 1500 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 14 g | [Pd] | Pd
product | (rac)-3-[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopentyl-amino]-2-methyl-propanoic acid methyl ester | 35.2 g | COC(C(CN(C1CCCC1)C1=NC(=NC=C1N)Cl)C)=O | C14H21ClN4O2
